US05274118
To a solution of methyl 4-(5-methoxycarbonyl-1-methylindol-3-ylmethyl)-3-methoxybenzoate (105.1 g) in tetrahydrofuran (1.4 l) was added methanol (450 ml) and deionized water (450 ml), followed by an equimolar amount of lithium hydroxide monohydrate (12.00 g). After the reaction mixture had stirred about 20 hours, it was acidified to pH 2 by addition of 6N hydrochloric acid (60 ml). Evaporation of the organic solvents resulted in the precipitation of a crude product (104.2 g) which was filtered and dried under vacuum before it was recrystallized by dissolving it in boiling tetrahydrofuran (600 ml), addition of toluene (about 1.2 l) and concentration to about one liter. Following cooling and stirring overnight, filtration, and drying under vacuum, a first crop is (71.1 g) was obtained. A second, similar recrystallization of this material from tetrahydrofuraN (500 ml) and toluene (1 l) afforded 4-(5-methoxycarbonyl-1-methylindol-3-ylmethyl)-3-methoxybenzoic acid (58.3 g, 57.7%) as an off-white solid; NMR (300 MHz, DMSO-d6): 3.78 (s, 3H, NCH3), 3.83 (s, 3H, CO2CH3), 3.92 (s, 3H, OCH3), 4.07 (s, ArCH2Ar'), 7.17 (d, 1H), 7.18 (s, 1H), 7.43-7.50 (m, 3H), 7.75 (dd, 1H) 8.19 (d, 1H); the same benzoic acid obtained by a similar procedure, but purified by flash chromatography, eluting with (methylene chloride:tetrahydrofuran:acetic acid (sequentially, 1:0:0, 1:9:0, and 0:400:1) followed by isolation and drying under vacuum of crystals formed on standing in methylene chloride:tetrahydrofuran fractions, had mp 228.0°-229.5° C. An additional amount of the benzoic acid (23.6 g, 23.3%), as well as recovered diester (11.5 g, 10.7%), was obtained by concentration and flash chromatography of the mother liquors, eluting with methylene chloride:tetrahydrofuran (sequentially, 1:0, 3:1, 2:1).

reactant | methyl 4-(5-methoxycarbonyl-1-methylindol-3-ylmethyl)-3-methoxybenzoate | 105.1 g | COC(=O)C=1C=C2C(=CN(C2=CC1)C)CC1=C(C=C(C(=O)OC)C=C1)OC | C21H21NO5
reactant | methanol | 450 ml | CO | CH4O
reactant | lithium hydroxide monohydrate | 12.00 g | O.[OH-].[Li+]
reactant | hydrochloric acid | 6N, 60 ml | Cl | ClH
solvent | tetrahydrofuran | 1.4 l | O1CCCC1 | C4H8O
solvent | water | 450 ml | O | H2O
product | 4-(5-methoxycarbonyl-1-methylindol-3-ylmethyl)-3-methoxybenzoic acid | 58.3 g, 57.7% | COC(=O)C=1C=C2C(=CN(C2=CC1)C)CC1=C(C=C(C(=O)O)C=C1)OC | C20H19NO5
